US07572795B2
3. 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetic acid silver salt
To a suspension of 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetic acid (1.5 g, 3.63 mmol) in water (50 mL) at 0° C. was added 1N NaOH slowly. The mixture was stirred at rt for 10 mins. Then AgNO3 (0.68 g, 4 mmol) was added. The reaction was stirred vigorously for 1 h in the dark. The title compound (1.5 g, 79.4% yield) was collected as a grey solid by suction filtration and dried over Drierite® under vacuum.

reactant | 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetic acid | 3.63 mmol, 1.5 g | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C22H21O6P
reactant | NaOH | 1N | [OH-].[Na+]
reactant | AgNO3 | 4 mmol, 0.68 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 50 mL | O | H2O
product | 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetic acid silver salt | 1.5 g, 79.4% yield | [Ag+].C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)[O-] | InChI=1S/C22H21O6P.Ag/c23-22(24)15-18-11-13-21(14-12-18)28-29(25,26-16-19-7-3-1-4-8-19)27-17-20-9-5-2-6-10-20;/h1-14H,15-17H2,(H,23,24);/q;+1/p-1
